US07923450B2
b) [3-Fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(4-trifluoromethoxy-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-amine
The title compound was prepared from [3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (45 mg, 0.18 mmol) and crude 6-bromo-2-(4-trifluoromethoxy-phenyl)-cyclohexanone (170 mg, ca. 0.5 mmol) using in analogous manner the procedure described in example 1b). Obtained as a light-brown solid (57 mg, 65%). MS ISP (m/e): 489.0 [(M+H)+]. mp 148-151° C.

reactant | [3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.18 mmol, 45 mg | FC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C11H11FN4S
reactant | 6-bromo-2-(4-trifluoromethoxy-phenyl)-cyclohexanone | ca. 0.5 mmol, 170 mg | BrC1CCCC(C1=O)C1=CC=C(C=C1)OC(F)(F)F | C13H12BrF3O2
product | [3-Fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(4-trifluoromethoxy-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-amine | FC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC2=C(N1)C(CCC2)C2=CC=C(C=C2)OC(F)(F)F | C24H20F4N4OS
